US06046235
N-tert-Butoxycarbonyl-L-cysteine ethyl ester (reference compound No. 5-1)
A solution of L-cysteine ethyl ester hydrochloride in methylene chloride (30 ml) is cooled with ice under a nitrogen atmosphere. To the solution are added triethylamine (4.8 ml) and a solution of di-tert-butyl dicarbonate (1.9 ml) in methylene chloride (20 ml) successively. The mixture is stirred at room temperature for 2.5 hours, and the solvent is evaporated under reduced pressure. A 5% aqueous citric acid solution is added to the residue, and the whole is extracted with ethyl acetate. The organic layer is washed with water and a saturated sodium chloride solution successively, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue is purified by silica gel column chromatography to give 5.41 g (93.3%) of the titled compound.

reactant | L-cysteine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CS)=O
reactant | triethylamine | 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.9 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-tert-Butoxycarbonyl-L-cysteine ethyl ester | 5.41 g, 93.3% | C(C)OC([C@@H](NC(=O)OC(C)(C)C)CS)=O | C10H19NO4S
